US07807708B2
In a 250 mL three-necked flask under a nitrogen atmosphere, equipped with a magnetic stirrer, 10 g (33.5 mmol) of N-(4-bromo-2-tert-butylphenyl)-N-ethylacetamide are dissolved in 100 mL of dimethylformamide. The solution is then degassed by sparging with nitrogen for 15 minutes. 13.2 g (134 mmol) of potassium acetate, 12.8 g (50.3 mmol) of bis(pinacolato)diborane and 2.73 g (3.35 mmol) of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) are then added; the reaction medium is heated at 80° C. and stirred at this temperature for 3 hours. The reaction medium is poured into 500 mL of water and extracted twice with ethyl acetate. The organic phases obtained are combined and washed with water, dried over anhydrous magnesium sulfate, filtered and evaporated to give a blackish oil. This oil is purified by chromatography on silica (eluent: 90/10 heptane/ethyl acetate) to give 12 g (yield=100%) of N-[2-tert-butyl-4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]-N-ethylacetamide in the form of a beige-colored powder.

reactant | N-(4-bromo-2-tert-butylphenyl)-N-ethylacetamide | 33.5 mmol, 10 g | BrC1=CC(=C(C=C1)N(C(C)=O)CC)C(C)(C)C | C14H20BrNO
reactant | potassium acetate | 134 mmol, 13.2 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diborane | 50.3 mmol, 12.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | water | 500 mL | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 3.35 mmol, 2.73 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[2-tert-butyl-4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]-N-ethylacetamide | 12 g, yield=100% | C(C)(C)(C)C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)N(C(C)=O)CC | C20H32BNO3
